US05424446
(4R)-4-Acetylthio-2-pyrrolidone (10 g) is dissolved in toluene (100 ml), and thereto is added gradually phosphorus pentasulfide (9.5 g), and the mixture is stirred at room temperature for 20 minutes. To the reaction solution are added water and ethyl acetate, and the mixture is stirred at room temperature for 1.5 hour. The insoluble materials are removed by filtration, and the organic layer is washed with water, dried, and evaporated to remove the solvent. The residue is recrystallized from toluene to give (+)-(4R)-4-acetylthiopyrrolidine-2-thione (7.9 g).

reactant | (4R)-4-Acetylthio-2-pyrrolidone | 10 g | C(C)(=O)[C@@H]1CC(NC1)=S | C6H9NOS
reactant | phosphorus pentasulfide | 9.5 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (+)-(4R)-4-acetylthiopyrrolidine-2-thione | 7.9 g, Yield: 72% | C(C)(=O)S[C@@H]1CC(NC1)=S | C6H9NOS2
